US08119627B2
To a refluxing mixture of iron powder (2.55 g, 45.93 mmol) and ammonium chloride (307 mg, 5.74 mmol) in ethanol (45 mL) and water (8 mL) was added 4-(6-methyl-pyridin-3-yloxy)-3-nitropyridine (AMR01121, 1.93 g, 8.35 mmol) and the resulting mixture was stirred at reflux for 2 h. After removal of the solvent, the residue was diluted in aqueous sodium hydrogen carbonate (40 mL) and extracted with DCM (3×20 mL). The organic layer was dried (MgSO4), filtered and evaporated. Flash master chromatography of the crude product using DCM to DCM/MeOH 9:1 gradient as eluent gave 4-(6-methylpyridin-3-yloxy)-pyridin-3-ylamine (1.32 g, 79%) as an orange solid, mp 74-79° C.

reactant | ammonium chloride | 5.74 mmol, 307 mg | [Cl-].[NH4+]
reactant | 4-(6-methyl-pyridin-3-yloxy)-3-nitropyridine | 8.35 mmol, 1.93 g | CC1=CC=C(C=N1)OC1=C(C=NC=C1)[N+](=O)[O-] | C11H9N3O3
solvent | ethanol | 45 mL | C(C)O | C2H6O
solvent | water | 8 mL | O | H2O
catalyst | iron | 45.93 mmol, 2.55 g | [Fe] | Fe
product | 4-(6-methylpyridin-3-yloxy)-pyridin-3-ylamine | 1.32 g, 79% | CC1=CC=C(C=N1)OC1=C(C=NC=C1)N | C11H11N3O
